US05051509
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid(2.83 g), 3-acetamidomethylpiperidine (1.87 g) and triethylamine (1.5 g) inacetonitrile (60 ml) was refluxed with stirring for 6 hours. The precipitate was filtered to give 7-(3-acetamidomethylpiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (3.5 g). The product (3.0 g) was suspended in 6N hydrochloric acid (50 ml) and heated at 100° C. with stirring for 5 hours. The reaction mixture was concentrated in vacuum, and the crude material was dissolved in 20 ml of aqueous ammonium hydroxide under ice-cooling. Removal of the solvent followed by purification by silica gel column chromatography (chloroform:methanol:ammonium hydroxide=15:5:1) gave 7-(3-aminomethylpiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.6 g), which was recrystallized from methanol-water to afford colorless prisms. m.p. 242°-243° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 2.83 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-acetamidomethylpiperidine | 1.87 g | C(C)(=O)NCC1CNCCC1 | C8H16N2O
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
product | 7-(3-acetamidomethylpiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 3.5 g | C(C)(=O)NCC1CN(CCC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H23F2N3O4
